US04567268
In a similar manner, 2.02 grams (2.52 grams of 80 percent; 6.31 millimoles) of pyridinium bromide perbromide was added in a single portion to a solution of 2 grams (5.26 millimoles) of dimethyl 2,6-dimethyl-4-(3-bromophenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 0.79 gram (10.0 millimoles) of pyridine in 40 milliliters of chloroform (distilled from P2O5) which had been cooled to 0° C. The resulting mixture was stirred at this temperature for 30 minutes and then heated at reflux temperature for 1.5 hours. Thereafter, the mixture was allowed to cool to room temperature and diluted with chloroform; the diluted solution washed with 2N hydrochloric acid and brine, dried, and the solvent evaporated to obtain methyl 2-methyl-4-(3-bromophenyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate product as a yellow foamy material. The latter was chromatographed on silica gel employing 60 percent ethyl acetate--40 percent hexane as eluant to obtain 790 milligrams (41 percent yield) of purified methyl 2-methyl-4-(3-bromophenyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate product as a white crystalline solid. An analytical sample of m.p. 229°-231° C. was prepared by recrystallizing from ethyl acetate-hexane. Elemental analyses were as follows:

reactant | pyridinium bromide perbromide | 6.31 millimoles, 2.02 grams | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | dimethyl 2,6-dimethyl-4-(3-bromophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 5.26 millimoles, 2 grams | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)Br)C(=O)OC)C | C17H18BrNO4
reactant | pyridine | 10.0 millimoles, 0.79 gram | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 40 milliliters | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-methyl-4-(3-bromophenyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | CC1=C(C(C2=C(N1)COC2=O)C2=CC(=CC=C2)Br)C(=O)OC | C16H14BrNO4
